US09382238B2
A mixture of 5-(3-nitro-5-(trifluoromethyl)phenyl)-2H-tetrazole (220 mg, 0.849 mmol) in MeOH (10 mL) was added Pd/C (45.2 mg, 0.424 mmol) under N2. The mixture was stirred at 20° C. under a H2 atmosphere for 1 h. LCMS showed the reaction was finished. The mixture was filtrated, and the filtrate was concentrated to give 3-(2H-tetrazol-5-yl)-5-(trifluoromethyl)aniline (200 mg, 0.781 mmol, 92% yield): 1H NMR (400 MHz, METHANOL-d4) δ 7.96 (s, 1H), 7.71 (s, 1H), 7.32 (s, 1H). ES-LCMS (m/z) 230 (M+H).

reactant | 5-(3-nitro-5-(trifluoromethyl)phenyl)-2H-tetrazole | 0.849 mmol, 220 mg | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C=1N=NNN1 | C8H4F3N5O2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.424 mmol, 45.2 mg | [Pd] | Pd
product | 3-(2H-tetrazol-5-yl)-5-(trifluoromethyl)aniline | 0.781 mmol, 200 mg, 92% yield | N=1NN=NC1C=1C=C(N)C=C(C1)C(F)(F)F | C8H6F3N5
